US03999974
5-(1-allyloxyaminopropylidene)-barbituric acid
1.8 g of 5-propionylbarbituric acid was dissolved in 30 ml of dimethylformamide and after the temperature of said solution was raised to 40° C, 1.5 g of allyloxyamine was added to it and the resulting solution was stirred at 40° C during 3 hours and then, about 10 ml of said dimethylformamide was distilled off and after 50 ml of ethanol was added to it, the separated crystal was filtered and recrystallized from ethanol and thereby, 2.1 g of the desired compound was obtained as a white columns.

reactant | 5-propionylbarbituric acid | 1.8 g | C(CC)(=O)C1C(NC(NC1=O)=O)=O | C7H8N2O4
reactant | allyloxyamine | 1.5 g | C(C=C)ON | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-(1-allyloxyaminopropylidene)-barbituric acid | 2.1 g | C(C=C)ONC(CC)=C1C(NC(NC1=O)=O)=O | C10H13N3O4
